US05942544
Part A. Employing methods similar to Example 1 Part A but using m-cyano benzaldehyde (0.91 gm, 6.89 mmol) and 4-acetyl benzonitrile (1.0 gm, 6.89 mmol), 4-[3-(3-cyanophenyl)-1-oxo-2-propenyl]benzonitrile was isolated as a pale yellow powder, 1.4 gm (79%), 1H NMR (CDCl3) 8.53(s,1H), 8.35(d,2H), 8.15-8.20(m,3H), 7.92(d, 1H), 7.82(d, 1H), 7.67(t, 1H).

reactant | m-cyano benzaldehyde | 6.89 mmol, 0.91 gm | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | 4-acetyl benzonitrile | 6.89 mmol, 1.0 gm | C(C)(=O)C1=CC=C(C#N)C=C1 | C9H7NO
product | 4-[3-(3-cyanophenyl)-1-oxo-2-propenyl]benzonitrile | C(#N)C=1C=C(C=CC1)C=CC(=O)C1=CC=C(C#N)C=C1 | C17H10N2O
